US07129239B2
Preparation of Intermediate 5-Methyl-2,5,7-triazaspiro[3.4]octan-8-one, Hydrochloride Salt (I-(29A-7)d)
To a solution of 2-benzhydryl-5-methyl-2,5,7-triazaspiro[3.4]oct-6-en-8-one (I-(29A-7)c; 189 mg, 0.619 mmol) in methanol (30 ml) was added 1 M HCl in diethyl ether (1.3 ml). After the addition of 20% Pd(OH)2 on carbon (50% water; 95 mg), the mixture was placed on a Parr® shaker and then reduced (50 psi H2) at room temperature for 5 hours. The reaction was filtered through a 0.45 μM disk, and then concentrated, in vacuo, to give a solid. Trituration from diethyl ether afforded I-(29A-7)d (124 mg, 94%) as an off-white solid: +ACPI MS (M+1) 142.0; 1H NMR (400 MHz, CD3OD) δ 4.38 (d, J=12.0 Hz, 2H), 4.17 (s, 2H), 4.13 (d, J=12.5 Hz, 2H), 2.71 (s, 3H).

reactant | 2-benzhydryl-5-methyl-2,5,7-triazaspiro[3.4]oct-6-en-8-one | 0.619 mmol, 189 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC2(C1)N(C=NC2=O)C | C19H19N3O
reactant | HCl | 1 M | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
solvent | diethyl ether | 1.3 ml | C(C)OCC | C4H10O
catalyst | Pd(OH)2 on carbon | 95 mg | [OH-].[OH-].[Pd+2]
product | 5-Methyl-2,5,7-triazaspiro[3.4]octan-8-one, Hydrochloride Salt | Cl.CN1C2(CNC2)C(NC1)=O | InChI=1S/C6H11N3O.ClH/c1-9-4-8-5(10)6(9)2-7-3-6;/h7H,2-4H2,1H3,(H,8,10);1H
